* Schematics Netlist *



R_R1         0 $N_0001  1e9  
C_C2         0 $N_0001  1  
I_I1         0 $N_0001 DC 0 AC 0
+PWL 0 0 1u .001 1 .001 1.0000001 0 3 0 3.000001 -.001 4 -.001 4.000001 0 
