* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 0
+PULSE -2 2 0 1n 1n 1 2
R_R1         0 $N_0001  1g  
I_I1         0 0 DC 0 AC 0
+PULSE 3 -3 0 1n 1n 1 2
