* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 0
+PULSE -2 2 0 1n 1n 1 2
R_R1         0 $N_0001  1g  
I_I1         0 0 DC 0 AC 0
+PWL 0 -3 1 3 2 -3 3 3 4 -3 5 3 
