* Schematics Netlist *



V_V1         $N_0001 0 DC 0 AC 0
+SIN 0 1 1.59 0 0 0
R_R1         0 $N_0001  1  
I_I1         0 0 DC 0 AC 0
+SIN 0 5 1.59 0 0 0
