* Schematics Netlist *



V_V8         $N_0001 0 10V
V_V9         0 $N_0002 12V
V_V10         $N_0003 0 12V
R_R18         $N_0005 $N_0004  1k  
R_R13         $N_0007 $N_0006  1k  
R_R14         $N_0008 $N_0007  1k  
R_R15         $N_0009 $N_0008  1k  
R_R16         0 $N_0009  2k  
S_S1         $N_0011 $N_0001 $N_0010 0 Sbreak
RS_S1        $N_0010 0 1G
R_R9         $N_0011 $N_0006  2k  
S_S2         $N_0013 $N_0001 $N_0012 0 Sbreak
RS_S2        $N_0012 0 1G
R_R10         $N_0013 $N_0007  2k  
S_S3         $N_0015 $N_0001 $N_0014 0 Sbreak
RS_S3        $N_0014 0 1G
R_R11         $N_0015 $N_0008  2k  
S_S4         $N_0017 $N_0001 $N_0016 0 Sbreak
RS_S4        $N_0016 0 1G
R_R12         $N_0017 $N_0009  2k  
R_R22         0 $N_0017  1  
R_R2         0 $N_0012  1k  
R_R3         0 $N_0014  1k  
R_R1         0 $N_0010  1k  
X_U2         0 $N_0005 $N_0003 $N_0002 $N_0004 uA741
R_R19         0 $N_0011  1  
R_R17         $N_0006 $N_0005  2k  
R_R20         0 $N_0013  1  
R_R4         0 $N_0016  1k  
R_R21         0 $N_0015  1  
V_V11         $N_0010 0 DC 0 AC 0
+PULSE 0 5 8 .0001 .0001 8 16
V_V13         $N_0012 0 DC 0 AC 0
+PULSE 0 5 4 .0001 .0001 4 8
V_V2         $N_0014 0 DC 0 AC 0
+PULSE 0 5 2 .0001 .0001 2 4
V_V12         $N_0016 0 DC 0 AC 0
+PULSE 0 5 1 .0001 .0001 1 2
