* Schematics Netlist *



V_V1         $N_0001 0 3V
I_I1         0 $N_0001 DC 1A  
R_R2         0 $N_0001  1  
R_R1         $N_0001 Vo  1  
I_I2         Vo $N_0001 DC 3A  
R_R3         0 Vo  1  
