* Schematics Netlist *



R_R2         0 $N_0001  5  
R_R1         0 $N_0002  5  
C_C1         0 $N_0003  0.2 IC=0 
R_R3         $N_0003 $N_0002  1e12  
V_V1         $N_0002 $N_0004 10v
R_R10         $N_0001 $N_0004  2  
I_I1         $N_0003 $N_0002 DC 0 AC 0
+PWL 0 0 0.0001 1 2 1 2.0001 -1 3 -1 3.0001 0 4 0 
I_I2         $N_0003 $N_0001 DC 0 AC 0
+PWL 0 0 1 0 1.0001 -1 2 -1 2.0001 1 3 1 3.0001 0 4 0 
