* Schematics Netlist *



R_R4         0 $N_0001  1k  
R_R3         $N_0002 $N_0001  1k  
R_R5         $N_0004 $N_0003  500  
R_R1         $N_0005 $N_0002  1k  
V_V1         $N_0005 0 1V
R_R2         $N_0002 $N_0004  500  
F_F1         $N_0001 0 VF_F1 100
VF_F1        $N_0003 0 0V
