* Schematics Netlist *



V_V1         $N_0001 0 1V
R_Rinf         0 $N_0001  1e9  
G_G1         0 $N_0002 $N_0001 $N_0002 0.01
R_R1         0 $N_0002  1k  
