* Schematics Netlist *



V_V3         0 $N_0001 10V
V_V7         $N_0002 0 10V
I_I2         0 $N_0003 DC 0.01A  
R_R5         $N_0004 $N_0003  1k  
X_U4         0 $N_0003 $N_0002 $N_0001 $N_0005 uA741
R_R6         0 $N_0004  2k  
R_R4         $N_0005 $N_0004  0.8k  
