* Schematics Netlist *



V_V2         $N_0001 0 1V
R_R2         0 $N_0002  5  
V_V1         $N_0003 0 10V
R_R1         $N_0003 $N_0002  2  
R_R3         $N_0002 $N_0001  3  
I_I3         $N_0001 $N_0003 DC 4A  
