* Schematics Netlist *



R_R7         $N_0002 $N_0001  1  
R_R6         0 $N_0001  1  
R_R5         0 $N_0002  1  
R_R3         $N_0002 $N_0003  1  
R_R8         $N_0003 $N_0004  1  
R_R4         $N_0001 $N_0004  1  
R_R1         $N_0004 $N_0005  1  
R_R2         $N_0003 $N_0005  1  
I_I1         0 $N_0005 DC 10A  
