* Schematics Netlist *



R_R1         $N_0002 $N_0001  10  
R_R2         0 $N_0003  10  
V_V1         $N_0002 0 DC 0 AC 0
+PULSE 0 2 0 .00001 .00001 2 4
I_I1         0 $N_0003 DC 0 AC 0
+PULSE 0 1 0 .00001 .00001 2 4
L_L1         $N_0001 $N_0003  10H  
