*   Library of default models for use with Schematics "breakout" symbols
*
*   Copyright 1994-1996 by MicroSim Corporation
*   Neither this library nor any part may be copied without the express
*   written consent of MicroSim Corporation


*   $Revision:   1.13  $
*   $Author:   DBarksda  $
*   $Date:   21 May 1997 11:29:06  $
*
*---------------------------------------------------------------
*
*$
.model Bbreak GASFET
*$
.model Cbreak CAP C=1
*$
.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.1
*$
.subckt Dbreak3 1 2 3
D1 1 3 Dbreak
D2 2 3 Dbreak
.ends
*$
.model Jbreakn NJF
*$
.model Jbreakp PJF
*$
.model Kbreak CORE
*$
.model Lbreak IND  L=1
*$
.model Mbreakn NMOS
*$
.model Mbreakp PMOS
*$
.model MbreaknD NMOS VTO=-4.0
*$
.model MbreakpD PMOS VTO=4.0
*$
.model Qbreakn NPN
*$
.model Qbreakp PNP
*$
.model Qbreakl LPNP
*$
.model Rbreak RES R=1
*$
.model Sbreak VSWITCH Roff=1e6 Ron=1.0 Voff=0.0 Von=1.0
*$
.model Wbreak ISWITCH  Ioff=0.0 Ion=1e-3 Roff=1e6 Ron=1.0
*$
.model Zbreakn NIGBT
*$
.subckt ADC8Break IN REF GND CNVRT STAT OVR
+                 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                 OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                 PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 ADC(8)  DPWR DGND IN REF GND CNVRT STAT OVR 
+          DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          ADC8TIM IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL  ADC8TIM UADC 

.ENDS
*$
.subckt ADC10Break IN REF GND CNVRT STAT OVR
+                  DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 ADC(10) DPWR DGND IN REF GND CNVRT STAT OVR 
+          DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          ADC10_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL  ADC10_TIMING UADC 

.ENDS
*$
.subckt ADC12Break IN REF GND CNVRT STAT OVR
+                  DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 ADC(12) DPWR DGND IN REF GND CNVRT STAT OVR 
+          DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          ADC12_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL  ADC12_TIMING UADC 

.ENDS
*$
.subckt DAC8Break OUT REF GND
+                 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                 OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                 PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 DAC(8) DPWR DGND OUT REF GND
+         DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+         DAC8_TIMING IO_STD
+         MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DAC8_TIMING UDAC

.ENDS
*$
.subckt DAC10Break OUT REF GND
+                  DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 DAC(10) DPWR DGND OUT REF GND
+          DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          DAC10_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DAC10_TIMING UDAC

.ENDS
*$
.subckt DAC12Break OUT REF GND 
+                  DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+                  OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                  PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 DAC(12) DPWR DGND OUT REF GND
+          DB11 DB10 DB9 DB8 DB7 DB6 DB5 DB4 DB3 DB2 DB1 DB0
+          DAC12_TIMING IO_STD
+          MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}

.MODEL DAC12_TIMING UDAC

.ENDS
*$
.SUBCKT ROM32Kx8Break A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+                     OEbar O7 O6 O5 O4 O3 O2 O1 O0 
+                     OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                     PARAMS: MNTYMXDLY=0 IO_LEVEL=0

U1 ROM(15,8) DPWR DGND OE
+            A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+            O7 O6 O5 O4 O3 O2 O1 O0
+            ROM_TIMING
+            IO_STD   
+            MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
*+            DATA=
*+            FILE=

U2 INV DPWR DGND OEbar OE
+            INV_TIMING IO_STD

.MODEL ROM_TIMING UROM
.MODEL INV_TIMING UGATE

.ENDS
*$
.SUBCKT RAM8Kx8Break RE WE
+                    A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+                    W7 W6 W5 W4 W3W W2 W1 W0
+                    R7 R6 R5 R4 R3 R2 R1 R0
+                    OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                    PARAMS: MNTYMXDLY=0 IO_LEVEL=0


U1 RAM(13,8) DPWR DGND RE WE 
+            A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+            W7 W6 W5 W4 W3W W2 W1 W0
+            R7 R6 R5 R4 R3 R2 R1 R0
+            RAM8Kx8_TIMING IO_STD
+            MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
*+            DATA=
*+            FILE=

.MODEL 	RAM8Kx8_TIMING URAM

.ENDS
*$
.SUBCKT RAM8Kx1Break RE WE
+                    A15 A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+                    D_IN D_OUT
+                    OPTIONAL: DPWR=$G_DPWR DGND=$G_DGND
+                    PARAMS: MNTYMXDLY=0 IO_LEVEL=0


U1 RAM(16,1) DPWR DGND RE WE 
+            A15 A14 A13 A12 A11 A10 A9 A8 A7 A6 A5 A4 A3 A2 A1 A0
+            D_IN D_OUT
+            RAM8Kx1_TIMING IO_STD
+            MNTYMXDLY={MNTYMXDLY} IO_LEVEL={IO_LEVEL}
*+            DATA=
*+            FILE=

.MODEL 	RAM8Kx1_TIMING URAM

.ENDS
*$

